US08461134B2
To a solution of 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (0.59 g, 3.9 mmol) and N-methylmorpholine (2.53 g, 25 mmol) in MeCN (70 mL) was added 2-(2-(methylsulfinyl)ethyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (1 g, crude, 2.6 mmol) in MeCN (20 mL) at 0° C., then the solution was stirred at room temperature overnight. The mixture was concentrated in vacuo, and ethyl acetate and water was added to the residue. The organic layer was dried over Na2SO4 and concentrated to give the crude product. The residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 30%-60%, 25 min) to give 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(2-(methylsulfinyl)ethyl)phenyl)acetamide (0.3 g, yield 32%).

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 3.9 mmol, 0.59 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | N-methylmorpholine | 25 mmol, 2.53 g | CN1CCOCC1 | C5H11NO
reactant | 2-(2-(methylsulfinyl)ethyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 2.6 mmol, 1 g | CS(=O)CCC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C11H11ClF3NO4S2
solvent | MeCN | 70 mL | CC#N | C2H3N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(2-(methylsulfinyl)ethyl)phenyl)acetamide | 0.3 g, yield 32% | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CCS(=O)C)(F)F | C18H18BF3N2O6S2
